US07429607B2
c. 2-amino-5-(4′-fluoronaphth-1-yl)-4-isopropyloxazole (31)
A mixture of 2-acetoxy-3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one (4.8 g), IMS (100 ml) and hydrochloric acid (1M; 70 ml) were boiled under reflux for 4 hours. The mixture was cooled, evaporated in vacuo and partitioned between dichloromethane and brine. The organic layer was separated, dried with sodium sulphate, filtered and evaporated in vacuo. The residue was purified by silica gel column chromatography in 66-100% dichloromethane in petroleum ether to afford a mixture of 2-hydroxy-3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one and 1-hydroxy-3-methyl-l-(4′-fluoronaphth-1-yl)butan-2-one (3.2 g). Cyanamide (0.65 g) and anhydrous ethanol (10 ml) were added and the resulting mixture was boiled under reflux for 48 hours. After cooling the volatiles were removed in vacuo and the residue heated at 110° C. for a further 48 hours. The mixture was cooled, triturated with chloroform (100 ml) and filtered. The filtrate was washed with water, dried with sodium sulphate, filtered and evaporated in vacuo. The title compound (0.25 g; m.p. 141° C., softens from 125° C.) was obtained following silica gel column chromatography of the residue in 50% ethyl acetate in petroleum ether.

reactant | 2-acetoxy-3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one | 4.8 g | C(C)(=O)OC(C(=O)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C17H17FO3
reactant | hydrochloric acid | 1M, 70 ml | Cl | ClH
reactant | 2-hydroxy-3-methyl-1-(4′-fluoronaphth-1-yl)butan-1-one | OC(C(=O)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C15H15FO2
reactant | 1-hydroxy-3-methyl-l-(4′-fluoronaphth-1-yl)butan-2-one | 3.2 g | OC(C(C(C)C)=O)C1=CC=C(C2=CC=CC=C12)F | C15H15FO2
reactant | Cyanamide | 0.65 g | N#CN | CH2N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-amino-5-(4′-fluoronaphth-1-yl)-4-isopropyloxazole | 0.25 g | NC=1OC(=C(N1)C(C)C)C1=CC=C(C2=CC=CC=C12)F | C16H15FN2O
